US06066639
To a 100 mL 14/20 round bottom flask under an argon atmosphere were added 0.316 g (1.17 mmol) of 2 -pivaloylamino-4-hydroxy-6-ethynylpyrido[2,3-d]pyrimidine suspended in 10 mL of acetonitrile, followed by the addition of 0.47 g (1.2 mmol) of diethyl N-(2-bromo-4-thiazolylcarbonyl)-L-glutamate, 0.14 g (0.12 mmol) of tetrakis(triphenylphosphine)palladium (0), 0.046 g (0.24 mmol) of copper (I) iodide, and 0.35 mL (2.5 mmol) of triethylamine with an additional 10 mL of acetonitrile. The reaction was heated to reflux for 2 hours The volatiles were removed in vacuo, and the residue purified using silica gel flash chromatography, eluting with a step gradient of 100% chloroform to 2% methanol/chloroform to give 0.46 g (67%) of diethyl N-{2-[2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl]-4-thiazolylcarbonyl}-L-glutamate as an off-white solid, m.p. 201-202° C. (dec). Rf =0.28 (4% methanol/chloroform). 1H NMR (300 MHz, DMSO-d6) δ 1.12-1.29 (m, 15H), 2.05-2.15 (m, 1H), 2.37 (t, J=7.2 Hz, 2H), 3.98-4.13 (m, 4H), 4.45-4.49 (m, 1H), 8.47 (s, 1H), 8.61 (d, J=1.8 Hz, 1H), 8.84 (d, J=8.1 Hz, 1H), 9.07 (d, J=1.9 Hz, 1H)

reactant | 2 -pivaloylamino-4-hydroxy-6-ethynylpyrido[2,3-d]pyrimidine | 1.17 mmol, 0.316 g | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C#C)O | C14H14N4O2
reactant | diethyl N-(2-bromo-4-thiazolylcarbonyl)-L-glutamate | 1.2 mmol, 0.47 g | BrC=1SC=C(N1)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC | C13H17BrN2O5S
reactant | triethylamine | 2.5 mmol, 0.35 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | tetrakis(triphenylphosphine)palladium | 0.12 mmol, 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper (I) iodide | 0.24 mmol, 0.046 g | [Cu]I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | diethyl N-{2-[2-pivaloylamino-4-hydroxypyrido[2,3-d]pyrimidin-6-ylethynyl]-4-thiazolylcarbonyl}-L-glutamate | 0.46 g, 67% | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C#CC=2SC=C(N2)C(=O)N[C@@H](CCC(=O)OCC)C(=O)OCC)O | C27H30N6O7S
